US09376442B2
4-[2-(cyclopropylmethoxy)-5-fluorophenyl]-6-methyl-N-(1-propionylpiperidin-4-yl)-5H-pyrrolo[3,2-d]pyrimidine-7-carboxamide
Starting from 4-(2-cyclopropylmethoxy-5-fluoro-phenyl)-6-methyl-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid piperidin-4-ylamide hydrochloride (example D.f12) and commercially propionyl chloride the title compound is obtained as colorless solid.

reactant | 4-(2-cyclopropylmethoxy-5-fluoro-phenyl)-6-methyl-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid piperidin-4-ylamide hydrochloride | Cl.N1CCC(CC1)NC(=O)C1=C(NC2=C1N=CN=C2C2=C(C=CC(=C2)F)OCC2CC2)C
reactant | propionyl chloride | C(CC)(=O)Cl | C3H5ClO
product | 4-[2-(cyclopropylmethoxy)-5-fluorophenyl]-6-methyl-N-(1-propionylpiperidin-4-yl)-5H-pyrrolo[3,2-d]pyrimidine-7-carboxamide | C1(CC1)COC1=C(C=C(C=C1)F)C=1C2=C(N=CN1)C(=C(N2)C)C(=O)NC2CCN(CC2)C(CC)=O | C26H30FN5O3
